US05116869
A 49 mg amount of 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonyl-2-hexynyl)-4-(3-t-butyldimethylsilyloxy-3-cyclopentyl-1-propenyl)cyclopentanone was dissolved in 1 ml of methanol and 21 μl of triethylamine was added. Then, 12 mg of 2,3-dihydroxypropanethiol was added thereto, followed by stirring for 2 hours. The reaction mixture was poured on an aqueous saturated solution of potassium hydrogen sulfate, followed by extracting with ethyl acetate. The extracted solution was washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering and concentrating, the concentrate was subjected to silica gel chromatography to give 36 mg (yield 62%) of 2-(2,3-dihydroxypropylthio)-5-(1-hydroxy-6-methoxycarbonyl-2-hexynyl)-4-(3-t-butyldimethylsilyloxy-3-cyclopentyl-1-propenyl)-2-cyclopentenone.

reactant | 2,3-epoxy-5-(1-hydroxy-6-methoxycarbonyl-2-hexynyl)-4-(3-t-butyldimethylsilyloxy-3-cyclopentyl-1-propenyl)cyclopentanone | O1C2C(C(C(C21)C=CC(C2CCCC2)O[Si](C)(C)C(C)(C)C)C(C#CCCCC(=O)OC)O)=O | C27H42O6Si
reactant | triethylamine | 21 μl | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydroxypropanethiol | 12 mg | OC(CS)CO | C3H8O2S
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 1 ml | CO | CH4O
product | 2-(2,3-dihydroxypropylthio)-5-(1-hydroxy-6-methoxycarbonyl-2-hexynyl)-4-(3-t-butyldimethylsilyloxy-3-cyclopentyl-1-propenyl)-2-cyclopentenone | 36 mg, yield 62% | OC(CSC=1C(C(C(C1)C=CC(C1CCCC1)O[Si](C)(C)C(C)(C)C)C(C#CCCCC(=O)OC)O)=O)CO | C30H48O7SSi
